*PUTTMER 1997 THICKNESS-MODE TRANSDUCER
.SUBCKT PZTtrans E B F
O1 B 1 F 1 mylossyTlineTRANS
V1 1 2
E1 2 0 4 0 1
V2 E 3
C0 3 0 {c0T}
F1 0 3 V1 {hc0T}
F2 0 4 V2 {hT}
R1 4 0 1E3
C1 4 0 1
.model mylossyTlineTRANS LTRA(len={thickT} R={rT} L={LT} C={cT})
.ENDS