*Green-Lis Macromodel Architecture

*OPAx209  Sept 3,2010 (PSpice format)
*	*	*	*	*	*
*	This file was created by TINA	*
*	(c) 1996-2006 DesignSoft, Inc.	*
*	*	*	*	*	*

* Rev. A by Marek Lis; Sept 3, 2010,
*
*
* This macromodel has been optimized to model the AC, DC, noise, and transient response performance within 
* the device data sheet specified limits. Correct operation of this macromodel has been verified on DesignSoft
* TINA Version 7.0.80.224 SF. For help with other analog simulation software, please consult the software supplier.
*
*  
* Copyright 2010 by Texas Instruments Corporation

* BEGIN MODEL OPA209

*GREEN-LIS MACRO-MODEL SIMULATED FEATURES:

*OPEN LOOP GAIN AND PHASE VS FREQUENCY WITH RL AND CL EFFECTS
*INPUT COMMON MODE REJECTION WITH FREQUENCY
*POWER SUPPLY REJECTION WITH FREQUENCY
*INPUT IMPEDANCE VS FREQUENCY 
*OUTPUT IMPEDANCE VS FREQUENCY
*INPUT VOLTAGE NOISE VS FREQUENCY
*INPUT CURRENT NOISE VS FREQUENCY 
*OUTPUT VOLTAGE SWING VS OUTPUT CURRENT
*SHORT-CIRCUIT OUTPUT CURRENT
*QUIESCENT CURRENT VS SUPPLY VOLTAGE
*SETTLING TIME VS CAPACITIVE LOAD
*SLEW RATE
*SMALL SIGNAL OVERSHOOT VS CAPACITIVE LOAD
*LARGE SIGNAL RESPONSE
*OVERLOAD RECOVERY TIME
*INPUT BIAS CURRENT
*INPUT VOLTAGE OFFSET
*INPUT COMMON MODE RANGE
*OUTPUT CURRENT COMING THROUGH THE SUPPLY RAILS


.SUBCKT OPA209_0 -IN +IN V- V+ Vout
V7          40 12 -1.5
Vos         30 31 0
V11         55 56 100M
V10         57 58 100M
V6          11 63 10
V5          64 11 10
V4          60 62 12
V1          61 59 12
V9          76 13 1.5
IS2         V+ 30 0
IS1         V+ V- 2.2M
IS3         35 V- -4.5N
V3          82 11 65
V2          11 83 65
XIn11       31 32 FEMT_0
XU14        33 11 34 35 VCVS_LIMIT_0
L3          36 11 8U IC=-100.0000499747U 
L2          37 11 1.5U IC=-100.0000499747U 
R1          37 33 1 
GVCCS2      11 33 11 38  1
XU13        12 39 IDEAL_D_0
EVCVS5      40 11 V- 11  1
XR109       27 11 RNOISE_FREE_0
XR109_2     41 11 RNOISE_FREE_0
XR109_3     42 43 RNOISE_FREE_0
L1          43 11 75U IC=0 
C11         41 11 100P IC=1.0022663618 
XR109_4     26 11 RNOISE_FREE_0
C1          11 44 63.9N IC=0 
EVCVS1      15 11 45 46  -1
R38         44 47 10 
VCCVS2_in   46 48
HCCVS2      47 11 VCCVS2_in   1K
XU9         44 11 49 50 VARICAP_0
XU7         44 11 46 51 VC_RES_0
C25         15 49 500F IC=-10.5458647139M 
R37         50 51 26.135MEG 
C24         15 14 90N IC=-10.5458647139M 
R32         14 49 1.8K 
R31         49 51 100MEG 
R30         15 49 500K 
EVCVS2      51 11 11 49  20MEG
GVCCS12     11 27 41 11  1M
XU5         16 11 V+ 17 VCVS_LIMIT_1
XU6         11 16 18 V- VCVS_LIMIT_1
C15         V+ V- 10P IC=0 
C22         11 23 1P IC=-10.5458647139M 
R29         23 25 1 
C23         11 28 1P IC=0 
C9          52 11 10P IC=0 
R26         52 16 10 
C21         11 19 1P IC=0 
C20         11 20 1P IC=0 
C19         21 11 1P IC=0 
C17         22 11 1P IC=0 
C16         11 53 1P IC=0 
C12         54 11 1P IC=0 
R13         45 28 1 
SW14        14 15 19 11  S_VSWITCH_1
SW13        15 14 11 20  S_VSWITCH_2
R36         28 58 1M 
R35         28 56 1M 
SW12        59 55 21 11  S_VSWITCH_3
SW11        57 60 11 22  S_VSWITCH_4
R34         28 61 1K 
R33         28 62 1K 
SW10        64 25 23 11  S_VSWITCH_5
SW9         25 63 11 23  S_VSWITCH_6
R25         65 21 1 
R19         66 22 1 
R16         67 53 1 
R14         68 54 1 
R12         69 19 1 
R7          70 20 1 
R5          71 26 10M 
R6          72 25 10M 
R4          73 24 10M 
R15         0 11 100MEG 
C13         26 11 1F IC=1.0022663618 
GVCCS1      11 26 27 11  1M
GIsinking   V- 11 74 11  1M
GIsourcing  V+ 11 75 11  1M
R23         74 11 10K 
SW7         16 74 52 11  S_VSWITCH_7
R21         11 75 10K 
SW8         16 75 52 11  S_VSWITCH_8
SW4         72 69 19 11  S_VSWITCH_9
SW3         70 72 11 20  S_VSWITCH_10
XU3         60 29 70 11 VCVS_LIMIT_2
XU1         59 29 69 11 VCVS_LIMIT_2
SW2         73 65 21 11  S_VSWITCH_11
SW1         66 73 11 22  S_VSWITCH_12
XU8         30 V+ IDEAL_D_1
XU12        V- 30 IDEAL_D_1
EVCVS6      76 11 V+ 11  1
R22         77 39 100 
EVCVS4      77 11 30 11  1
XU2         39 13 IDEAL_D_0
XVn11       78 31 VNSE_0
SW6         71 67 53 11  S_VSWITCH_13
SW5         68 71 11 54  S_VSWITCH_14
XU26        39 35 11 79 VCCS_LIMIT_0
XU4         79 11 11 25 VCCS_LIMIT_1
LPSR        80 11 200M IC=0 
XVCVSPSRR   81 11 34 32 VCVS_LIMIT_3
XU22        82 16 66 11 VCVS_LIMIT_4
XU21        83 16 65 11 VCVS_LIMIT_4
XU20        18 Vout 67 11 VCVS_LIMIT_4
XU19        17 Vout 68 11 VCVS_LIMIT_5
XU11        V- 35 IDEAL_D_1
XU10        35 V+ IDEAL_D_1
C10         24 11 1F IC=1.0022663618 
C5          27 11 1F IC=1.0022663618 
XR109_5     24 11 RNOISE_FREE_0
GVCCS15     11 24 26 11  1M
GVCCS10     11 41 42 11  1M
R20         +IN 78 100 
R18         -IN 32 100 
GVCCS6      11 42 29 11  1M
XR102       84 85 RNOISE_FREE_1
XR101       86 84 RNOISE_FREE_1
C6          84 0 1 IC=0 
XR105       29 11 RNOISE_FREE_1
XR104       25 11 RNOISE_FREE_0
XR103       11 79 RNOISE_FREE_1
EVCVS34     11 0 84 0  1
C8          78 11 2P IC=1.000702095 
RPSR        80 81 1 
GVCCS11     11 81 V+ V-  50N
RCM         36 38 1 
EVCVS29     86 0 V+ 0  1
EVCVS28     85 0 V- 0  1
CinnCM      11 32 2P IC=-1.0001979904 
GVCCS7      11 38 30 11  350N
C7          32 78 4P IC=-504.1045803864U 
VCCVS1_in   48 Vout
HCCVS1      16 11 VCCVS1_in   1K
GVCCS5      11 29 25 11  1U
Ccc         25 11 40U IC=1.0032648632 
EVCVS3      45 11 24 11  1
.MODEL S_VSWITCH_1 VSWITCH (RON=1 ROFF=100MEG VON=100M VOFF=-100M)
.MODEL S_VSWITCH_2 VSWITCH (RON=1 ROFF=100MEG VON=100M VOFF=-100M)
.MODEL S_VSWITCH_3 VSWITCH (RON=1 ROFF=10MEG VON=100M VOFF=-100M)
.MODEL S_VSWITCH_4 VSWITCH (RON=1 ROFF=10MEG VON=100M VOFF=-100M)
.MODEL S_VSWITCH_5 VSWITCH (RON=10M ROFF=100MEG VON=150 VOFF=0)
.MODEL S_VSWITCH_6 VSWITCH (RON=10M ROFF=100MEG VON=150 VOFF=0)
.MODEL S_VSWITCH_7 VSWITCH (RON=1M ROFF=10MEG VON=-10M VOFF=0)
.MODEL S_VSWITCH_8 VSWITCH (RON=1M ROFF=10MEG VON=10M VOFF=0)
.MODEL S_VSWITCH_9 VSWITCH (RON=1 ROFF=10MEG VON=1 VOFF=-1)
.MODEL S_VSWITCH_10 VSWITCH (RON=1 ROFF=10MEG VON=1 VOFF=-1)
.MODEL S_VSWITCH_11 VSWITCH (RON=1 ROFF=1G VON=10 VOFF=-10)
.MODEL S_VSWITCH_12 VSWITCH (RON=1 ROFF=1G VON=10 VOFF=-10)
.MODEL S_VSWITCH_13 VSWITCH (RON=1 ROFF=1G VON=10 VOFF=-10)
.MODEL S_VSWITCH_14 VSWITCH (RON=1 ROFF=1G VON=10 VOFF=-10)
.ENDS


* BEGIN PROG NSE FEMTO AMP/RT-HZ 
.SUBCKT FEMT_0  1 2
* BEGIN SETUP OF NOISE GEN - FEMPTOAMPS/RT-HZ
* INPUT THREE VARIABLES
* SET UP INSE 1/F
* FA/RHZ AT 1/F FREQ
.PARAM NLFF=3.8E3
* FREQ FOR 1/F VAL
.PARAM FLWF=.1
* SET UP INSE FB
* FA/RHZ FLATBAND
.PARAM NVRF=500
* END USER INPUT
* START CALC VALS
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS
* END PROG NSE FEMTO AMP/RT-HZ


*VOLTAGE CONTROLLED SOURCE WITH LIMITS
.SUBCKT VCVS_LIMIT_0  VC+ VC- VOUT+ VOUT-
*              
.PARAM GAIN = 1
.PARAM VPOS = 10M
.PARAM VNEG = -10M
E1 VOUT+ VOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),VPOS,VNEG)}
.ENDS VCVS_LIMIT_0 


*TG IDEAL DIODE
.SUBCKT IDEAL_D_0  A C
D1 A C DNOM
.MODEL DNOM D (TT=10P CJO=1E-18 IS=1E-15 RS=1E-3)
.ENDS IDEAL_D_0 


* NOISELESS RESISTOR
.SUBCKT RNOISE_FREE_0  1 2
*ROHMS = VALUE IN OHMS OF NOISELESS RESISTOR
.PARAM ROHMS=1E3
ERES 1 3 VALUE = { I(VSENSE) * ROHMS }
RDUMMY 30 3 1
VSENSE 30 2 DC 0V
.ENDS RNOISE_FREE_0 


*VARICAP (VOLTAGE-CONTROLLED CAPACITOR
.SUBCKT VARICAP_0  1 2 3 4
*PINS       VC+ VC- CAP+ CAP-
R1 3 10 1U
VC 10 20 0
EC 20 4 VALUE = {(1/(((ABS(V(1,2))*(-2.08)+104.636))))*V(INT)*100000000000000000}
GINT 0 INT VALUE = {I(VC)}
CINT INT 0 1
.ENDS VARICAP_0 


*VOLTAGE CONTROLLED RESISTOR
.SUBCKT VC_RES_0  1      2      3    4
*              VC+    VC-   RES1 RES2
ERES 3 40 VALUE = {(I(VSENSE) * (ABS(V(1,2))*ABS(V(1,2))*0.000352-0.02359*ABS(V(1,2))+0.5922))*140000*24200*50*2/414500}
VSENSE 40 4 DC 0
.ENDS VC_RES_0 


*VOLTAGE CONTROLLED SOURCE WITH LIMITS
.SUBCKT VCVS_LIMIT_1  VC+ VC- VOUT+ VOUT-
*              

E1 VOUT+ VOUT- TABLE {ABS(V(VC+,VC-))} = (0,0.2) (30,0.6) (50,1.5) (64, 2.5)
.ENDS VCVS_LIMIT_1 



*VOLTAGE CONTROLLED SOURCE WITH LIMITS
.SUBCKT VCVS_LIMIT_2  VC+ VC- VOUT+ VOUT-
*              
.PARAM GAIN = 100
.PARAM VPOS = 6000
.PARAM VNEG = -6000
E1 VOUT+ VOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),VPOS,VNEG)}
.ENDS VCVS_LIMIT_2 


*TG IDEAL DIODE
.SUBCKT IDEAL_D_1  A C
D1 A C DNOM 
.MODEL DNOM D (TT=10P CJO=1E-18 IS=1E-15 RS=1E-3)
.ENDS IDEAL_D_1 


* BEGIN PROG NSE NANO VOLT/RT-HZ
.SUBCKT VNSE_0  1 2
* BEGIN SETUP OF NOISE GEN - NANOVOLT/RT-HZ
* INPUT THREE VARIABLES
* SET UP VNSE 1/F
* NV/RHZ AT 1/F FREQ
.PARAM NLF=1
* FREQ FOR 1/F VAL
.PARAM FLW=50
* SET UP VNSE FB
* NV/RHZ FLATBAND
.PARAM NVR=0.25
* END USER INPUT
* START CALC VALS
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS
* END PROG NSE NANOV/RT-HZ


*VOLTAGE CONTROLLED SOURCE WITH LIMITS
.SUBCKT VCCS_LIMIT_0  VC+ VC- IOUT+ IOUT-
*              
.PARAM GAIN = 1M
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),IPOS,INEG)}
.ENDS VCCS_LIMIT_0 


*VOLTAGE CONTROLLED SOURCE WITH LIMITS
.SUBCKT VCCS_LIMIT_1  VC+ VC- IOUT+ IOUT-
*              
.PARAM GAIN = 6
.PARAM IPOS = 250
.PARAM INEG = -250
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),IPOS,INEG)}
.ENDS VCCS_LIMIT_1 


*VOLTAGE CONTROLLED SOURCE WITH LIMITS
.SUBCKT VCVS_LIMIT_3  VC+ VC- VOUT+ VOUT-
*              
.PARAM GAIN = -1
.PARAM VPOS = 10M
.PARAM VNEG = -10M
E1 VOUT+ VOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),VPOS,VNEG)}
.ENDS VCVS_LIMIT_3 


*VOLTAGE CONTROLLED SOURCE WITH LIMITS
.SUBCKT VCVS_LIMIT_4  VC+ VC- VOUT+ VOUT-
*              
.PARAM GAIN = 100
.PARAM VPOS = 5000
.PARAM VNEG = -5000
E1 VOUT+ VOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),VPOS,VNEG)}
.ENDS VCVS_LIMIT_4 


*VOLTAGE CONTROLLED SOURCE WITH LIMITS
.SUBCKT VCVS_LIMIT_5  VC+ VC- VOUT+ VOUT-
*             
.PARAM GAIN = 100
.PARAM VPOS = 5000
.PARAM VNEG = -5000
E1 VOUT+ VOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),VPOS,VNEG)}
.ENDS VCVS_LIMIT_5 


* NOISELESS RESISTOR
.SUBCKT RNOISE_FREE_1  1 2
*ROHMS = VALUE IN OHMS OF NOISELESS RESISTOR
.PARAM ROHMS=1E6
ERES 1 3 VALUE = { I(VSENSE) * ROHMS }
RDUMMY 30 3 1
VSENSE 30 2 DC 0V
.ENDS RNOISE_FREE_1 
 